US07563805B2
tert-Butyl(3S)-4-fluoro-3-methyl-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate (isomer A)
To a solution of tert-butyl(3S)-4-fluoro-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate (isomer A) (2.58 g, 8.03 mmol) in tetrahydrofuran (50 mL) was added 1.01M solution of borane in tetrahydrofuran (26.2 mL, 26.5 mmol) in an ice bath and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, and water (5 mL), ethanol (45 ml), and triethylamine (3 mL) were added in an ice bath, and the mixture was heated under reflux for 1.5 hours. After concentrating the reaction mixture under reduced pressure, water (100 mL) was added, and the mixture was extracted with chloroform (200 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography (elusion by hexane ethyl acetate, 12:1→2:1) to obtain 2.15 g (87%) of the title compound (isomer A) as a colorless oily substance.

reactant | tert-butyl(3S)-4-fluoro-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate | FC1[C@@](CN(C1=O)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H24FNO3
reactant | borane | B | BH3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 26.5 mmol, 26.2 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3S)-4-fluoro-3-methyl-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate | 2.15 g, 87% | FC1[C@@](CN(C1)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H26FNO2
